US04367338
Dinitrogen tetroxide was bubbled through a suspension of 4-methyl-1,2,4-triazolidine-3,5-dione (23.0 g, 0.2 mol) in dichloromethane (250 ml) cooled to 0° C., until a clear, homogenous deep red solution was obtained. This solution was then dried (Na2SO4), filtered, and the filtrate evaporated at room temperature in vacuo to give 4-methyl-1,2,4-triazolidine-3,5-dione (m.p. 105° decomp). To the 4-methyl-1,2,4-triazolidine-3,5-dione (23.0 g, 0.2 mol) dissolved in benzene (200 ml) was added dropwise hept-6-enoic acid (23.0 g, 0.18 mol) in benzene (100 ml) and the resultant solution boiled under reflux in an atmosphere of nitrogen, until a pale yellow solution had been obtained (in 1 hr). The resultant solution was evaporated in vacuo and the residue dissolved in a 10% solution of acetyl chloride in methanol (300 ml). This solution was boiled at reflux for 5 hr, stirred at room temperature overnight and then evaporated in vacuo. The residue (44 g) was chromatographed on silica gel (Merck Kieselgel 60, 900 g) using chloroform; methanol as eluant (0-5% methanol), to afford 1-(6'-methoxycarbonyl-n-hex-2-enyl)-4-methyl-1,2,4-triazolidine-3,5,-dione (19.1 g) m.p. 55-7.

reactant | 4-methyl-1,2,4-triazolidine-3,5-dione | 0.2 mol, 23.0 g | CN1C(NNC1=O)=O | C3H5N3O2
reactant | hept-6-enoic acid | 0.18 mol, 23.0 g | C(CCCCC=C)(=O)O | C7H12O2
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(6'-methoxycarbonyl-n-hex-2-enyl)-4-methyl-1,2,4-triazolidine-3,5,-dione | 19.1 g | COC(=O)CCCC=CCN1NC(N(C1=O)C)=O | C11H17N3O4
